US07932272B2
2-(5-(2-cyclopropylvinyl)thiophen-2-ylmethyl) isoindol-1,3-dione
(5-(2-Cyclopropylvinyl)thiophen-2-yl)methanol described in Preparation Example 149 (930 mg, 5.19 mmol), triphenylphosphine (2040 mg, 7.78 mmol) and phthalimide (1140 mg, 7.78 mmol) were dissolved in tetrahydrofuran (50 mL), azodicarboxylic acid dimethyl ester (1140 mg, 7.78 mmol) was added under stirring at room temperature, and the solution was stirred for 1 hour. Water (50 mL) was added to the reaction solution, which was then extracted with ethyl acetate (50 mL). The organic layer was washed with water, dried over anhydrous magnesium sulfate, and the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (hexane:ethyl acetate=9:1), and the title compound (330 mg, 1.07 mmol, 20.6%) was obtained as a white solid.

reactant | (5-(2-Cyclopropylvinyl)thiophen-2-yl)methanol | C1(CC1)C=CC1=CC=C(S1)CO | C10H12OS
reactant | triphenylphosphine | 7.78 mmol, 2040 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 7.78 mmol, 1140 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | azodicarboxylic acid dimethyl ester | 7.78 mmol, 1140 mg | COC(=O)N=NC(=O)OC | C4H6N2O4
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | Water | 50 mL | O | H2O
product | 2-(5-(2-cyclopropylvinyl)thiophen-2-ylmethyl) isoindol-1,3-dione | 1.07 mmol, 330 mg, 20.6% | C1(CC1)C=CC1=CC=C(S1)CN1C(C2=CC=CC=C2C1=O)=O | C18H15NO2S
